US06982348B2
A solution of ethyl 4-(4-fluorophenyl)-5-methyl-2-phenylfuran-3-carboxylate (19.06 g, 58.76 mmol), N-bromosuccinimide (10.5 g, 58.8 mmol) and 2,2′-azobis(isobutyronitrile) (50 mg) in carbon tetrachloride (50 ml) was heated under reflux for 0.5 hr. After cooling the reaction solution to room temperature, white precipitate was removed by filtration, and the precipitate was washed with diethyl ether. The solvent of the collected filtrate was evaporated under reduced pressure to give a crude product of ethyl 5-(bromomethyl)-4-(4-fluorophenyl)-2-phenylfuran-3-carboxylate as a yellow liquid. The obtained liquid was dissolved in N,N-dimethylformamide (40 ml) and sodium acetate (9.64 g, 118 mmol) was added. The mixture was stirred overnight at room temperature. The reaction solution was diluted with water and extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The obtained crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1) to give the objective substance.

reactant | ethyl 4-(4-fluorophenyl)-5-methyl-2-phenylfuran-3-carboxylate | 58.76 mmol, 19.06 g | FC1=CC=C(C=C1)C=1C(=C(OC1C)C1=CC=CC=C1)C(=O)OCC | C20H17FO3
reactant | N-bromosuccinimide | 58.8 mmol, 10.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 50 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 5-(bromomethyl)-4-(4-fluorophenyl)-2-phenylfuran-3-carboxylate | BrCC1=C(C(=C(O1)C1=CC=CC=C1)C(=O)OCC)C1=CC=C(C=C1)F | C20H16BrFO3
